US08877934B2
Step F: 3-Methyl-2-(4-quinolylamino)butanamide
4-Chloroquinoline (0.82 g, 5 mmol), valinamide (0.64 g, 5.5 mmol) and diisopropylamine (1.9 ml, 11 mmol) were mixed with 1-methoxy-2-propanol (8 ml) and heated with stirring at reflux for 48 hours. The solvent was removed under reduced pressure, the residue was partitioned between water and ethyl acetate, the phases were separated, the aqueous phase was washed 3 times with ethyl acetate and basified with 50% NaOH. A precipitate formed that was filtered off and dried in air to give 0.2 g of a solid (0.78 mmol, 14%). MS (APCI) M/z=243.6 [M+H]+.

reactant | 4-Chloroquinoline | 5 mmol, 0.82 g | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
reactant | valinamide | 5.5 mmol, 0.64 g | N[C@@H](C(C)C)C(=O)N | C5H12N2O
reactant | diisopropylamine | 11 mmol, 1.9 ml | C(C)(C)NC(C)C | C6H15N
reactant | 1-methoxy-2-propanol | 8 ml | COCC(C)O | C4H10O2
product | 3-Methyl-2-(4-quinolylamino)butanamide | 0.78 mmol, 0.2 g, 14% | CC(C(C(=O)N)NC1=CC=NC2=CC=CC=C12)C | C14H17N3O
